US06586430B1
N-[(1R,5S)-3-Benzyl-3-azabicyclo[3.1.0]hex-6-yl]-N-(2-nitrophenyl)amine
Potassium carbonate (4.59 g, 33.2 mmol), followed by 1-fluoro-2-nitrobenzene (1.87 g, 13.3 mmol) were added to a solution of (1R,5S)-3-benzyl-3-azabicyclo[3.1.0]hex-6-ylamine (WO 9318001), (2.50 g, 13.3 mmol) in N,N-dimethylformamide (40 ml), and the reaction mixture stirred at 130° C. for 18 hours. The cooled mixture was filtered, and the filtrate concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water, the phases separated, and the aqueous layer extracted with ethyl acetate (3×). The combined organic solutions were washed with brine, dried (MgSO4), filtered and evaporated under reduced pressure. The residual brown oil was purified by column chromatography on silica gel using an elution gradient of pentane:ethyl acetate (95:5 to 90:10) to afford the title compound as an orange crystalline foam, 3.11 g.

reactant | Potassium carbonate | 33.2 mmol, 4.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-2-nitrobenzene | 13.3 mmol, 1.87 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | (1R,5S)-3-benzyl-3-azabicyclo[3.1.0]hex-6-ylamine | 13.3 mmol, 2.50 g | C(C1=CC=CC=C1)N1C[C@@H]2C([C@@H]2C1)N | C12H16N2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[(1R,5S)-3-Benzyl-3-azabicyclo[3.1.0]hex-6-yl]-N-(2-nitrophenyl)amine | C(C1=CC=CC=C1)N1C[C@@H]2C([C@@H]2C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C18H19N3O2
